US04430415
6.5 g of benzotriazole and 10 g of gelatin were dissolved in 1,000 ml of water and the solution was stirred while maintaining at 50° C. A solution containing 8.5 g of silver nitrate dissolved in 100 ml of water was added to the above described solution for a period of 2 minutes and thus silver benzotriazole was formed. Then, a solution containing 1.19 g of KBr and 0.083 g of KI dissolved in 50 ml of water was added to the above described mixture for a period of 5 minutes. It is believed that on this step silver was supplied from the silver benzotriazole to form crystals of AgBrI (I: 20 mol%) adjacent to the silver benzotriazole. By controlling the pH of the emulsion thus prepared to form a precipitate the undesirable salts were removed. The pH of the emulsion was adjusted to 6.0 and 400 g of the emulsion was obtained.

reactant | benzotriazole | 6.5 g | N1N=NC2=C1C=CC=C2 | C6H5N3
reactant | silver nitrate | 8.5 g | [N+](=O)([O-])[O-].[Ag+]
solvent | water | 1,000 ml | O | H2O
solvent | water | 100 ml | O | H2O
product | silver benzotriazole | N1N=NC2=C1C=CC=C2.[Ag] | InChI=1S/C6H5N3.Ag/c1-2-4-6-5(3-1)7-9-8-6;/h1-4H,(H,7,8,9);
